US08808742B2
N-(3,4-difluoro-2-(2-fluoro-4-iodophenylamino)phenyl)-2-methylpropane-2-sulfonamide
According to the general procedure B, 5,6-difluoro-N1-(2-fluoro-4-iodophenyl)benzene-1,2-diamine was reacted with 2-methylpropane-2-sulfonyl chloride (synthesized according to the literature procedure) to obtain the desired product. 1H NMR (300 MHz, CDCl3): δ 7.50 (m, 1H), 7.43 (dd, J=1.8 & 10.5 Hz, 1H), 7.28 (br s, 1H), 7.10 (dd, J=9.0 & 17.7 Hz, 1H), 6.48 (br s, D2O exchangeable, 1H), 6.19 (t, J=7.8 & 9.6 Hz, 1H), 5.58 (br s, D2O exchangeable, 1H), 1.39 (s, 9H); m/z=383 [M−1]−.

reactant | 5,6-difluoro-N1-(2-fluoro-4-iodophenyl)benzene-1,2-diamine | FC1=CC=C(C(=C1F)NC1=C(C=C(C=C1)I)F)N | C12H8F3IN2
reactant | 2-methylpropane-2-sulfonyl chloride | CC(C)(C)S(=O)(=O)Cl | C4H9ClO2S
product | N-(3,4-difluoro-2-(2-fluoro-4-iodophenylamino)phenyl)-2-methylpropane-2-sulfonamide | FC=1C(=C(C=CC1F)NS(=O)(=O)C(C)(C)C)NC1=C(C=C(C=C1)I)F | C16H16F3IN2O2S
